US04739070
Preparation of 3,6-dichloro-2-(dichloromethyl)pyridine (Cpd. 2 of table)
2,3,6-Trichloropyridine (1.0 g, 0.0055 mole) was combined with 4 g N-methylpyrrolidone, 4 g (0.033 mole) of chloroform, and 1.0 g of 50 percent aqueous sodium hydroxide (0.013 mole). The resulting mixture was stirred and warmed mildly for about 1 hour at which time the product was found to be present in the reaction mixture by gas chromatography and mass spectrometry using an authentic sample of the product as a standard. After standing overnight at ambient temperature the title compound represented about 1.7 percent of the pyridines in the mixture.

reactant | 2,3,6-Trichloropyridine | 0.0055 mole, 1.0 g | ClC1=NC(=CC=C1Cl)Cl | C5H2Cl3N
reactant | chloroform | 0.033 mole, 4 g | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | 0.013 mole, 1.0 g | [OH-].[Na+]
solvent | N-methylpyrrolidone | 4 g | CN1C(CCC1)=O | C5H9NO
product | 3,6-dichloro-2-(dichloromethyl)pyridine | ClC=1C(=NC(=CC1)Cl)C(Cl)Cl | C6H3Cl4N
